US06770667B1
To a suspension of 9H-carbazole-1-carboxylic acid (148 mg) and 1-hydroxybenzotriazole (114 mg) in dichloromethane (3 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiinide hydrochloride (201 mg), and the m e was stirred for 15 minutes. After adding 5-(3-amino-4-methylphenyl)pyrimdine (136 mg) and 4dimethylaminopyridine (128 mg), the mixture was stirred for 24 hours. The mixture was evaporated under reduced pressure and the residue was purified by a silica gel column chromatography eluting with 2% methanol in dichloromethane to give N-[6methyl-3-(pyrimidin-5-yl)-phenyl]-9H-carbazole-1-carboxamide (89 mg, 33.6%).

reactant | 9H-carbazole-1-carboxylic acid | 148 mg | C1(=CC=CC=2C3=CC=CC=C3NC12)C(=O)O | C13H9NO2
reactant | 1-hydroxybenzotriazole | 114 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 5-(3-amino-4-methylphenyl)pyrimdine | 136 mg | NC=1C=C(C=CC1C)C=1C=NC=NC1 | C11H11N3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | 4dimethylaminopyridine | 128 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[6methyl-3-(pyrimidin-5-yl)-phenyl]-9H-carbazole-1-carboxamide | 89 mg, 33.6% | CC1=CC=C(C=C1NC(=O)C1=CC=CC=2C3=CC=CC=C3NC12)C=1C=NC=NC1 | C24H18N4O
